US08207344B2
2: 4-(1-Methanesulfonyloxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-(1-hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester (18.24 g, 79.54 mmol) in dichloromethane (400 mL) and triethylamine (12.20 mL, 87.49 mmol) at 0° C. is added methanesulfonyl chloride (9.23 mL, 119.30 mmol). The reaction is allowed to warm to room temperature over 16 h. The mixture is washed with 0.1 M hydrochloric acid, saturated aqueous sodium bicarbonate, water, and brine. The material is dried over magnesium sulfate, filtered, and concentrated to dryness. The crude material is purified by flash chromatography over silica gel to afford 22.65 g of the title compound as a colourless oil. 1H NMR (CDCl3) δ (ppm): 1.19-1.30 (m, 2H), 1.39 (d, 3H), 1.44 (s, 9H), 1.6-1.8 (m, 3H), 2.66 (m, 2H), 2.99 (s, 3H), 4.16 (m, 2H), 4.62 (t, 1H).

reactant | 4-(1-hydroxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 79.54 mmol, 18.24 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C)O | C12H23NO3
reactant | triethylamine | 87.49 mmol, 12.20 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 119.30 mmol, 9.23 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 4-(1-Methanesulfonyloxy-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 22.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C)OS(=O)(=O)C | C13H25NO5S
